US07417064B2
(4-Cyclohexyl-3-hydroxy-butyl)-methyl-carbamic acid tert-butyl ester
Using a method similar to that for 1-(Benzyl-methyl-amino)-heptan-3-ol, (4-cyclohexyl-3-oxo-butyl)-methyl-carbamic acid tert-butyl ester affords the title compound: 1H NMR (CDCl3) δ 3.90-3.80 (m, 1H), 3.62-3.52 (m, 1H), 2.88-2.96 (m, 1H), 2.83 (s, 3H), 1.80-1.60 (m, 6H), 1.56-1.32 (m, 3H), 1.47 (s, 9H), 1.31-1.08 (m, 4H), 0.98-0.77 (m, 2H).

reactant | 1-(Benzyl-methyl-amino)-heptan-3-ol | C(C1=CC=CC=C1)N(CCC(CCCC)O)C | C15H25NO
reactant | (4-cyclohexyl-3-oxo-butyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCC(CC1CCCCC1)=O)=O | C16H29NO3
product | (4-Cyclohexyl-3-hydroxy-butyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCC(CC1CCCCC1)O)=O | C16H31NO3
